US07402684B2
4-(4-Benzyloxy-phenoxy)-pyridine:
The same procedure from Example 143, step 1 was followed using p-benzyloxyphenol (500 mg, 2.5 mmol), Cs2CO3 (1.58 g, 4.85 mmol), 4-iodo pyridine (780 mg, 3.805 mmol), anhydrous dioxane (15 ml), diglyme (34 mg, 0.24 mmol), CuI (17 mg, 0.089 mmol) to give the title compound (600 mg, 57%).

reactant | p-benzyloxyphenol | 2.5 mmol, 500 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | Cs2CO3 | 4.85 mmol, 1.58 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodo pyridine | 3.805 mmol, 780 mg | IC1=CC=NC=C1 | C5H4IN
reactant | diglyme | 0.24 mmol, 34 mg | COCCOCCOC | C6H14O3
catalyst | CuI | 0.089 mmol, 17 mg | [Cu]I
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Benzyloxy-phenoxy)-pyridine | 600 mg, 57% | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=NC=C2)C=C1 | C18H15NO2
